datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][S+:10](C([H])C([H])C([H])[O]1)[C:20]1([O:21]C)[O]C.[Cl-]>>[Cl-].[H][S:10]C([H])C([H])C([H])[O][C:20]([O]C)=[O+:21]C 21=20;20,10=10"
"[O-:21][C:20]1(OCC)C([H])C(C)C(O)C(CC)[NH+:10]1([H])>>[NH:10]([H])C(CC)C(O)C(C)C([H])[C:20](OCC)=[O:21] 21=20;20,10=10"
"CC1C(C(O[C:20](N1C)([O-:10])[O:21]C)CC)[H]>>CC1C(C(O[C:20](=[O:10])N1C)CC)[H].[O-:21]C 10=20;20,21=21"
"C1(C(O[C:20]([O-:10])([O:21]C1CC)OC)CC)C>>C(C([O-:21])CC)(C(O[C:20](=[O:10])OC)CC)C 10=20;20,21=21"
"[H]N([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)CCCCCC)CCCCCC)[O-:10])[H]>>[H]N([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)CCCCCC)CCCCCC)[H] 10=20;20,21=21"
"[O-:21][C:20]1(OCC)C(C)C(C)=C(C)C([H])[O:10]1>>[O-:10]C([H])/C(C)=C(C)\C(C)[C:20](OCC)=[O:21] 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21][H])[NH]C.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[O][C:20]([NH]C)=[NH+:21][H] 21=20;20,10=10"
"[O-:10]C(C)/C(O)=C([C:20](OC)=[O:21])/C>>[O-:21][C:20]1(OC)[O:10]C(C)C(O)=C1C 10=20;20,21=21"
"[H][S+:10](C(CC)C(C)[O]1)[C:20]1([O:21]C)[S][H].[Cl-]>>[Cl-].[H][S:10]C(CC)C(C)[O][C:20]([S][H])=[O+:21]C 21=20;20,10=10"
"[O-:21][C:20]1(C)C(C)C([H])C([H])C(CC)[O:10]1>>[O-:10]C(CC)C([H])C([H])C(C)[C:20](C)=[O:21] 21=20;20,10=10"
"[O:10]([K])C(CCC)C(O)C([C:20](C)=[O:21])[H]>>[O-:21][C:20]1(C)[O+:10]([K])C(CCC)C(O)C1[H] 10=20;20,21=21"
"CCC1C(O[C:20](=[O:10])N1CCCCCC)C.[O-:21]CC>>CCC1C(O[C:20](N1CCCCCC)([O-:10])[O:21]CC)C 21=20;20,10=10"
"[H][NH+:10](C(CC)C([H])C([H])[NH]1)[C:20]1([NH:21][H])[NH]CC.[Cl-]>>[Cl-].[H][NH:10]C(CC)C([H])C([H])[NH][C:20]([NH]CC)=[NH+:21][H] 21=20;20,10=10"
"C9=CC=CC=C9[S+:10]([H])[C:20]([O:21]C)([O][H])[S]C.[Cl-]>>[Cl-].C9=CC=CC=C9[S:10][H].C[O+:21]=[C:20]([O][H])[S]C 21=20;20,10=10"
"CC[O+:10]([H])[C:20]([O:21]C)([O]C)[S]C7=CC=CC=C7.[Cl-]>>[Cl-].CC[O:10][H].C[O+:21]=[C:20]([O]C)[S]C7=CC=CC=C7 21=20;20,10=10"
"[H][S+:10](C(C9=CC=CC=C9)C([H])C(C)[O]1)[C:20]1([O:21][H])[O][H].[Cl-]>>[Cl-].[H][S:10]C(C9=CC=CC=C9)C([H])C(C)[O][C:20]([O][H])=[O+:21][H] 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1CC)C1=CC=CC=C1)C.[O-:21][H]>>C1=CC=CC=C1C1C(C(O[C:20](N1CC)([O-:10])[O:21][H])C1=CC=CC=C1)C 21=20;20,10=10"
"C[O+:21]=[C:20]2[S][CH](C)[CH]([H])C(C)[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([O:21]C)[S][CH](C)C([H])[CH](C)[O]1 10=20;20,21=21"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)[H])CC)CCCCCC>>C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)[H])CC)[O-:10])CCCCCC 21=20;20,10=10"
"C[NH+:10]([H])[C:20]1([NH:21][H])[O][CH](C7=CC=CC=C7)C(C)[CH](C)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C(C)[NH]2.C[NH:10][H] 21=20;20,10=10"
"[H][O+:21]=[C:20]2[S][CH](CC)[CH](C)C(CC)[S]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([O:21][H])[S][CH](CC)C(C)[CH](CC)[S]1 10=20;20,21=21"
"CC[S+:10]([H])[C:20]1([O:21][H])[O][CH]([H])C([H])[CH](C)[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O][CH]([H])[CH]([H])C(C)[O]2.CC[S:10][H] 21=20;20,10=10"
"[H][O+:21]=[C:20]2[O][CH](CC)[CH]([H])C(CC)[O]2.C[S:10][H].[Cl-]>>[Cl-].C[S+:10]([H])[C:20]1([O:21][H])[O][CH](CC)C([H])[CH](CC)[O]1 10=20;20,21=21"
"[H][O:10][H].[H][O+:21]=[C:20]([O]C)[O][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]([O:21][H])([O]C)[O][H] 10=20;20,21=21"
"[H][NH+:10](C(C)C(C)C(C)[NH]1)[C:20]1([NH:21][H])[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C(C)C(C)C(C)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21][H] 21=20;20,10=10"
"C9=CC=CC=C9[O:10][H].[H][O+:21]=[C:20]([S]C8=CC=CC=C8)[S]CC.[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]([O:21][H])([S]C8=CC=CC=C8)[S]CC 10=20;20,21=21"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C([O-:21])C)C1=CC=CC=C1)CC>>C1=CC=CC=C1N([C:20]1(OC(C([O:21]1)C)C1=CC=CC=C1)[O-:10])CC 21=20;20,10=10"
"CCN([C:20](=[O:10])OC(C(C([O-:21])C)CCCCCC)[H])C>>CCN([C:20]1(OC(C(C([O:21]1)C)CCCCCC)[H])[O-:10])C 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[O][C:20]([NH]C)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]CC)[NH]C 10=20;20,21=21"
"[Li][O+:21]([C:20]([O-:10])(OCC)O[H])CC>>[Li][O:21]CC.[C:20](=[O:10])(OCC)O[H] 10=20;20,21=21"
"[H]N([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)C)CCCCCC)CCCCCC>>[H]N([C:20]1(OC(C(C([O:21]1)CCCCCC)C)CCCCCC)[O-:10])CCCCCC 21=20;20,10=10"
"C[S+:10]([H])[C:20]([O:21]C)([O]CC)[O]C.[Cl-]>>[Cl-].C[S:10][H].C[O+:21]=[C:20]([O]CC)[O]C 21=20;20,10=10"
"CCC1C(C(O[C:20](=[O:10])N1CC)[H])C.[O-:21]CC>>CCC1C(C(O[C:20](N1CC)([O-:10])[O:21]CC)[H])C 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C(C)[NH]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]CC)[O][CH](C7=CC=CC=C7)C(C)[CH](C)[NH]1 10=20;20,21=21"
"[OH:21][C:20]1([H])C(C)C(O)C([H])C(CC)[OH+:10]1>>[OH:10]C(CC)C([H])C(O)C(C)[C:20]([H])=[OH+:21] 21=20;20,10=10"
"[H][NH+:10](C(C9=CC=CC=C9)C(C)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O][H].[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C(C)[O][C:20]([O][H])=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H][NH+:10](C(CC)C([H])C(C)[NH]1)[C:20]1([NH:21]CC)[NH]C.[Cl-]>>[Cl-].[H][NH:10]C(CC)C([H])C(C)[NH][C:20]([NH]C)=[NH+:21]CC 21=20;20,10=10"
